US06528525B1
(c) Ethyl 3-[4-(2-t-butoxycarbonylaminoethoxy)phenyl]-2-(4-cyanophenoxy)propionate
In a similar manner to that described in Reference example 25, a reaction was carried out using ethyl 2-(4-cyanophenoxy)-3-(4-hydroxyphenyl)propionate (293 mg), t-butyl 2-methanesulfonyloxyethylcarbamate (560 mg) and potassium carbonate (520 mg) and the reaction mixture was treated to afford the title compound (245 mg) as a colorless oil.

reactant | ethyl 2-(4-cyanophenoxy)-3-(4-hydroxyphenyl)propionate | 293 mg | C(#N)C1=CC=C(OC(C(=O)OCC)CC2=CC=C(C=C2)O)C=C1 | C18H17NO4
reactant | t-butyl 2-methanesulfonyloxyethylcarbamate | 560 mg | CS(=O)(=O)OCCNC(OC(C)(C)C)=O | C8H17NO5S
reactant | potassium carbonate | 520 mg | C([O-])([O-])=O.[K+].[K+]
product | Ethyl 3-[4-(2-t-butoxycarbonylaminoethoxy)phenyl]-2-(4-cyanophenoxy)propionate | 245 mg | C(C)(C)(C)OC(=O)NCCOC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=C(C=C1)C#N | C25H30N2O6
